US07407968B2
3-Nitro-4-[(3-thienylmethyl)amino]-N,N-bis(2,2,2-trifluoroethyl)benzamide
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (125 mg, 0.359 mmol) and 3-thienylmethylamine (49 mg, 0.431 mmol) in 3 mL of EtOH containing TEA (0.075 mL, 0.539 mmol).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.359 mmol, 125 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | 3-thienylmethylamine | 0.431 mmol, 49 mg | S1C=C(C=C1)CN | C5H7NS
solvent | EtOH | 3 mL | CCO | C2H6O
product | 3-Nitro-4-[(3-thienylmethyl)amino]-N,N-bis(2,2,2-trifluoroethyl)benzamide | [N+](=O)([O-])C=1C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=CC1NCC1=CSC=C1 | C16H13F6N3O3S
